US04529698
(F) (3S-trans)-4-Methyl-2-oxo-3-[[(phenylmethoxy)carbonyl]amino]-1-azetidinesulfonic acid, tetrabutylammonium salt
A solution of 600 mg of (3S-trans)-3-benzyloxycarbonylamino-4-methylazetidinone in 2 ml of dimethylformamide is cooled to 0° C. and 4 ml of 0.8M sulfur trioxide in dimethylformamide is added. The solution is stirred at room temperature under nitrogen for 1 hour and poured into 80 ml of cold 0.5M monobasic potassium phosphate (adjusted to pH 5.5). The solution is extracted with three 50 ml portions of methylene chloride (discarded) and 868 mg of tetrabutylammonium bisulfate is added. The resulting solution is extracted with four 75 ml portions of methylene chloride. The combined organic layer is washed with 8% aqueous sodium chloride, dried, and evaporated in vacuo yielding 1.54 g of the title compound.

reactant | (3S-trans)-3-benzyloxycarbonylamino-4-methylazetidinone | 600 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N[C@H]1C)=O | C12H14N2O3
reactant | sulfur trioxide | 0.8M, 4 ml | S(=O)(=O)=O | O3S
reactant | potassium phosphate | 0.5M, pH 5.5 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (3S-trans)-4-Methyl-2-oxo-3-[[(phenylmethoxy)carbonyl]amino]-1-azetidinesulfonic acid, tetrabutylammonium salt | 1.54 g | C(CCC)[N+](CCCC)(CCCC)CCCC.C[C@H]1[C@@H](C(N1S(=O)(=O)[O-])=O)NC(=O)OCC1=CC=CC=C1 | InChI=1S/C16H36N.C12H14N2O6S/c1-5-9-13-17(14-10-6-2,15-11-7-3)16-12-8-4;1-8-10(11(15)14(8)21(17,18)19)13-12(16)20-7-9-5-3-2-4-6-9/h5-16H2,1-4H3;2-6,8,10H,7H2,1H3,(H,13,16)(H,17,18,19)/q+1;/p-1/t;8-,10-/m.0/s1
